US06756378B2
A mixture of methyl 3-chloro-4-nitrophenylacetate (10.9 g, 47.5 mmol), reduced iron powder (8.58 g, 153.6 mmol), AcONa.3H2O (6.05 g, 44.5 mmol) and AcOH (17.6 ml) in MeOH/H2O (100/400 ml) was heated at 110° C. for 1 h. After cooled to room temperature, the reaction mixture was filtered through Celite and the filtered cake was washed with MeOH. The combined filtrate were evaporated and extracted with EtOAc. The combined extracts were washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was chromatographed on silica gel [150 g, CHCl3/EtOAc (10/1)] to give methyl 4-amino-3-chlorophenylacetate (4.58 g, 48%) as a red oil. 1H-NMR (CDCl3) δ3.49 (s, 2H), 3.68 (s, 3H), 4.01 (br, 2H), 6.70 (d, J=7.4 Hz, 1H), 6.96 (dd, J=8.1, 2.0 Hz, 1H), 7.17 (d, J=2.0 Hz, 1H).

reactant | methyl 3-chloro-4-nitrophenylacetate | 47.5 mmol, 10.9 g | ClC=1C=C(C=CC1[N+](=O)[O-])CC(=O)OC | C9H8ClNO4
reactant | AcONa.3H2O | 44.5 mmol, 6.05 g | C(=O)(C)O[Na].O.O.O
reactant | AcOH | 17.6 ml | CC(=O)O | C2H4O2
solvent | MeOH H2O | 400 ml | CO.O
product | methyl 4-amino-3-chlorophenylacetate | 4.58 g, 48% | NC1=C(C=C(C=C1)CC(=O)OC)Cl | C9H10ClNO2
